US06337196B1
The purified cyanohydrin was dissolved in 5 ml of dry diethyl ether, and the solution was treated with 2 mol equivalents of acetic anhydride and 2 mol equivalents of pyridine and stirred at room temperature for 8 hours. It was then extracted with 10 ml each of 5% H2SO4, distilled water and saturated NaHCO3 solution, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. After purification by column chromatography, 182 mg of (S)-2-acetoxyheptanenitrile were obtained (98% isolated yield). e.e.=96% (determined by gas chromatography)

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | (S)-2-acetoxyheptanenitrile | 182 mg | C(C)(=O)O[C@H](C#N)CCCCC | C9H15NO2
